US06960575B2
{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-(3,4,5-triacetoxyphenyl)-1,2,3,4-tetrahydropyrazin-1-yl}acetic acid (Reference compound No. 65-1)
Acetic anhydride is added to a suspension of {(3RS)-4-acetyl-3-isopropyl-2-oxo-6-(3,4,5-trihydroxyphenyl)-1,2,3,4-tetrahydropyrazin-1-yl}acetic acid (630 mg, Reference compound No. 62-2) in acetone (10 ml), and the mixture is stirred for one week. The reaction mixture is concentrated under reduced pressure to give the titled reference compound (790 mg).

reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | {(3RS)-4-acetyl-3-isopropyl-2-oxo-6-(3,4,5-trihydroxyphenyl)-1,2,3,4-tetrahydropyrazin-1-yl}acetic acid | C(C)(=O)N1C(C(N(C(=C1)C1=CC(=C(C(=C1)O)O)O)CC(=O)O)=O)C(C)C | C17H20N2O7
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | {(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-(3,4,5-triacetoxyphenyl)-1,2,3,4-tetrahydropyrazin-1-yl}acetic acid | 790 mg | C(C)(=O)N1C(C(N(C(=C1)C1=CC(=C(C(=C1)OC(C)=O)OC(C)=O)OC(C)=O)CC(=O)O)=O)C(C)C | C23H26N2O10
